US09227919B2
Step-6: (S)-3-(2-(((R)-1-(4-Fluoronaphthalen-1-yl)ethyl)amino)ethyl)-3,4-dihydronaphthalen-1(2H)-one
To a stirred solution of (R)-1-(4-fluoronaphthalen-1-yl)ethanamine (1.206 g, 6.38 mmol) in methanol (5 mL) was added (S)-2-(4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)acetaldehyde (1.2 g, 6.38 mmol) at 0° C. Acetic acid (0.365 mL, 6.38 mmol) was added and reaction was stirred for 5 min. Reaction was warmed to RT and stirred for 20 min. Again reaction was cooled to 0° C. Sodium cyanoborohydride (0.401 g, 6.38 mmol) was added to the reaction mixture and stirred for overnight (16 h). To the reaction solution were added NaHCO3 solution (5 mL) and water (10 mL) and the mixture was extracted with ethyl acetate (20 mL×2). The extract was washed with saturated brine solution, dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude title compound (2.0 g, 5.53 mmol, 87% yield).

reactant | (R)-1-(4-fluoronaphthalen-1-yl)ethanamine | 6.38 mmol, 1.206 g | FC1=CC=C(C2=CC=CC=C12)[C@@H](C)N | C12H12FN
reactant | (S)-2-(4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)acetaldehyde | 6.38 mmol, 1.2 g | O=C1C[C@@H](CC2=CC=CC=C12)CC=O | C12H12O2
reactant | Acetic acid | 6.38 mmol, 0.365 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 6.38 mmol, 0.401 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (S)-3-(2-(((R)-1-(4-Fluoronaphthalen-1-yl)ethyl)amino)ethyl)-3,4-dihydronaphthalen-1(2H)-one | 5.53 mmol, 2.0 g, 87% yield | FC1=CC=C(C2=CC=CC=C12)[C@@H](C)NCC[C@H]1CC(C2=CC=CC=C2C1)=O | C24H24FNO
